US04001313
In a 200-ml autoclave were placed 11.2 grams (0.05 mole) of anydrous sodium 2,3,5-trimethylbenzene sulfonate, 5.2 grams (0.13 mole) of sodium amide and 60 ml liquid ammonia in the same manner as in Example 1. The resultant mixture was heated at 160° C for 9 hours. The reaction pressure in the autoclave was 140 atm. during the reaction. After the ammonia was removed, 10 ml of water was added to the reaction mixture for hydrolysis. The product was extracted with ether and the ether was distilled off to produce crude 2,3,5-trimethyl aniline. The recrystallization thereof from petroleum ether gave 5.3 grams of 2,3,5-trimethyl aniline having a melting point of 36° C. Yield was 78.8%.

reactant | sodium 2,3,5-trimethylbenzene sulfonate | 0.05 mole, 11.2 grams | CC1=C(C=C(C=C1C)C)S(=O)(=O)[O-].[Na+]
reactant | sodium amide | 0.13 mole, 5.2 grams | [NH2-].[Na+]
reactant | ammonia | N | H3N
product | 2,3,5-trimethyl aniline | 5.3 grams, Yield was 78.8% | CC1=C(N)C=C(C=C1C)C | C9H13N
